data/oMe_Silver.jsonl
{"reaction_id": "NR-306_1-S(=O)(=O)","level": "medium","name": "Thorpe-Ziegler Reaction","reactants_smiles": ["N#C[CH2]S(=O)(=O)[CH2]C#N","[O-]C(C)(C)C"],"products_smiles": ["N#CC1=C(N)CS(=O)(=O)C1"],"conditions": "tert-butoxide base","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N#C[C-][CH2]S(=O)(=O)[CH2]C#N","step_weight": 0,"rationale": "tert-Butoxide deprotonates the methylene flanked by nitriles due to the strong acidity from electron-withdrawing cyano groups, stabilizing the resulting carbanion via resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N#CC1C(=[N-])CS(=O)(=O)C1","step_weight": 0,"rationale": "The resonance-stabilized carbanion attacks the electrophilic carbon of the second nitrile intramolecularly, favored by proximity and relief of ring strain in forming a five-membered ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N#CC1C(=N)CS(=O)(=O)C1","step_weight": 0,"rationale": "Protonation of the imide anion occurs to neutralize charge, driven by the basicity of the anion and availability of proton donors in the medium."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N#CC1=C([NH-])CS(=O)(=O)C1","step_weight": 0,"rationale": "Deprotonation at the adjacent nitrogen generates an anionic intermediate, facilitated by the electron-withdrawing cyano group and conjugation with the C=N bond."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N#CC1=C(N)CS(=O)(=O)C1","step_weight": 0,"rationale": "Final protonation of the nitrogen anion yields the neutral amine, thermodynamically favored under the reaction conditions."}],"description": "Under strong basic conditions, tert-butoxide deprotonates a methylene between two nitriles, generating a stabilized carbanion. This nucleophile undergoes intramolecular attack on the other nitrile, forming a cyclic imine anion. Sequential proton transfers yield the neutral aminopyridine derivative."}
{"reaction_id": "NR-217_1-C_2-C#N","level": "easy","name": "Acidic elimination","reactants_smiles": ["OC(C)C(C#N)[Si](C)(C)C"],"products_smiles": ["C(C)=C(C#N)"],"conditions": "Acidic conditions","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(C)C(C#N)[Si](C)(C)C","step_weight": 0,"rationale": "Protonation of the hydroxyl oxygen increases its positive charge, converting OH into the better leaving group H2O under acidic conditions."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)=C(C#N)","step_weight": 0,"rationale": "Loss of water is favored due to its stability as a leaving group; the adjacent silyl group stabilizes developing carbocation character, enabling alkene formation."}],"description": "Under acidic conditions, the hydroxyl group is protonated to form a better leaving group, facilitating elimination. The bulky trialkylsilyl group on the adjacent carbon stabilizes carbocation character and promotes loss of water to yield the alkene."}
